US08623877B2
N-Methyl-6-[6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-nicotinamide
6-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline (1.81 g, 6.35 mmol, 1 eq) was dissolved in 77 mL of dry toluene and purged with nitrogen. 4-Bromo-N-methyl-nicotinamide (1.49 g, 6.99 mmol, 1.1 eq), sodium tert-butoxide (885 mg, 9.2 mmol, 1.45 eq), Pd2(dba)3 (59 mg, 0.064 mmol, 0.01 eq) and BINAP (119 mg, 0.19 mmol, 0.03 eq) were sequentially added followed by an additional degassing with nitrogen. The reaction mixture was heated to 85° C. and stirred overnight. The reaction mixture was cooled to rt, transferred to a separatory funnel, diluted with water and brine and extracted with ethyl acetate (2×100 mL). The combined organics were dried over Na2SO4, concentrated under vacuum and purified by column chromatography on silica gel (200 g column; 50 mL/min; 10% MeOH in CH2Cl2). This resulted in 1.8 g (68%) of the title compound as a light orange solid.

reactant | 6-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline | 6.35 mmol, 1.81 g, 1 eq | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C=1C=C2CCNCC2=CC1 | C18H27N3
reactant | 4-Bromo-N-methyl-nicotinamide | 6.99 mmol, 1.49 g, 1.1 eq | BrC1=CC=NC=C1C(=O)NC | C7H7BrN2O
reactant | sodium tert-butoxide | 9.2 mmol, 885 mg, 1.45 eq | CC(C)([O-])C.[Na+]
solvent | toluene | 77 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.064 mmol, 59 mg, 0.01 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | BINAP | 0.19 mmol, 119 mg, 0.03 eq | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | N-Methyl-6-[6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-nicotinamide | 1.8 g, 68% | CNC(C1=CN=C(C=C1)N1CC2=CC=C(C=C2CC1)N1C[C@H](CC1)N1[C@H](CCC1)C)=O | C25H33N5O
